US07947676B2
3-[2-(4-acetylpiperazin-1-yl)ethoxy]-N-{3-chloro-4-[(6-methylpyridin-3-yl)oxy]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-4-amine
The procedure described in Example 23 was repeated using 3-(2-chloroethoxy)-N-{3-chloro-4-[(6-methylpyridin-3-yl)oxy]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-4-amine and N-acetylpiperazine to give the title compound in 32% yield; NMR Spectrum: 1.96 (s, 3H), 2.45 (s, 3H), 2.46-2.53 (m, partially hidden by DMSO, 8H), 2.86 (t, 2H), 4.47 (t, 2H), 6.05 (br s, 1H), 7.20 (d, 1H), 7.26 (br s, 2H), 7.71 (d, 1H), 8.12 (s, 1H), 8.20 (s, 1H), 8.36 (s, 1H); Mass Spectrum: 523 (MH+).

reactant | 3-(2-chloroethoxy)-N-{3-chloro-4-[(6-methylpyridin-3-yl)oxy]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-4-amine | ClCCOC1=NNC2=NC=NC(=C21)NC2=CC(=C(C=C2)OC=2C=NC(=CC2)C)Cl | C19H16Cl2N6O2
reactant | N-acetylpiperazine | C(C)(=O)N1CCNCC1 | C6H12N2O
product | 3-[2-(4-acetylpiperazin-1-yl)ethoxy]-N-{3-chloro-4-[(6-methylpyridin-3-yl)oxy]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 32% yield | C(C)(=O)N1CCN(CC1)CCOC1=NNC2=NC=NC(=C21)NC2=CC(=C(C=C2)OC=2C=NC(=CC2)C)Cl | C25H27ClN8O3
